US05478842
Using an analogous procedure to that described in Example 26 except that a catalytic amount (0.01 g) of potassium iodide was added to the reaction mixture, 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with 4-(2-chlorothiazol-5-yl)-4-hydroxy2,2-dimethyltetrahydropyran to give 4-hydroxy-2,2-dimethyl-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thiazol-5-yl]tetrahydropyran in 92% yield as a foam;

reactant | potassium iodide | 0.01 g | [I-].[K+]
reactant | 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | SC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NOS
reactant | 4-(2-chlorothiazol-5-yl)-4-hydroxy2,2-dimethyltetrahydropyran | ClC=1SC(=CN1)C1(CC(OCC1)(C)C)O | C10H14ClNO2S
product | 4-hydroxy-2,2-dimethyl-4-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thiazol-5-yl]tetrahydropyran | 92% yield | OC1(CC(OCC1)(C)C)C1=CN=C(S1)SC=1C=C2CCC(N(C2=CC1)C)=O | C20H24N2O3S2
